US06372775B1
(5aS,12S,14aS)-9-methoxy-11-(3-methylbut-2-enyl)-12-(2-methylprop-1-enyl)-1,2,3,5a,6,11,12,14a-octahydro-5H,14H-pyrrolo[1″,2″:4′,5′]pyrazino[2′,1′:6,1]pyrido[3,4-b]indole-5,14-dione
To a stirred suspension of sodium hydride (0.12 mol) in dry dichloromethane (0.1 ml) was added a solution of fumitremorgin C (0.05 mmol) in dichloromethane (0.5 ml) under an atmosphere of nitrogen at room temperature. Upon stirring for forty-five minutes, 3,3-dimethyl allyl bromide (0.11 mmol) was added and the reaction mixture stirred under nitrogen for two hours. Saturated aqueous solution of ammonium chloride was then added, and the alkylation product was extracted with ethyl acetate and purified by HPLC on a C18 column using methanol/water as mobile phase. MS and 1H NMR spectra were consistent with the desired product.

reactant | sodium hydride | 0.12 mol | [H-].[Na+]
reactant | fumitremorgin C | 0.05 mmol | CC(=C[C@H]1C2=C(C=3C=CC(=CC3N2)OC)C[C@@H]4N1C(=O)[C@@H]5CCCN5C4=O)C | C22H25N3O3
reactant | 3,3-dimethyl allyl bromide | 0.11 mmol | CC(=CCBr)C | C5H9Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 0.1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | (5aS,12S,14aS)-9-methoxy-11-(3-methylbut-2-enyl)-12-(2-methylprop-1-enyl)-1,2,3,5a,6,11,12,14a-octahydro-5H,14H-pyrrolo[1″,2″:4′,5′]pyrazino[2′,1′:6,1]pyrido[3,4-b]indole-5,14-dione | COC1=CC=C2C3=C(N(C2=C1)CC=C(C)C)[C@@H](N1[C@@H](C3)C(N3[C@H](C1=O)CCC3)=O)C=C(C)C | C27H33N3O3
